US03975443
2-Allylmethylamino-2-methylpropylamine
2-Allylmethylamino-2-methylpropionitrile (1.3 g.,) in benzene (20 ml., dry) was added dropwise to a stirred solution of sodium dihydro-bis[2-methoxy-ethoxy]aluminate (6.7 g.,) in benzene (30 ml., dry) under an atmosphere of nitrogen and stirred overnight. The excess reducing agent was decomposed by the dropwise addition of water. The phases were separated, the organic phase was washed with water, the aqueous phase was washed with benzene and the combined organic extract was dried (MgSO4) and the solvent was removed in vacuo to give a pale yellow liquid (1.8 g.). Distillation at 80°-90°/15 mm. gave 2-allylmethylamino-2-methylpropylamine as a colourless liquid (0.8 g., 60%).

reactant | 2-Allylmethylamino-2-methylpropionitrile | 1.3 g | C(C=C)CNC(C#N)(C)C | C8H14N2
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-Allylmethylamino-2-methylpropylamine | C(C=C)CNC(CN)(C)C | C8H18N2
